* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\dopamine-summation\Draft1.asc
XU1 N033 N030 +10 -10 N024 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R1 N024 N030 300K
R2 N033 0 10K
R3 N033 N032 100K
XU2 N035 N029 +5 -5 N014 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N035 0.1µ
R4 N035 Tpre 10K
R5 N045 Tpost 10K
R6 N014 N029 10K
R7 N033 N019 100K
XU3 N034 N025 +5 -5 N032 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N025 D
D2 P001 N034 D
R8 N032 N034 1Meg
R9 0 N034 700K
R10 P001 0 100K
C2 P001 N014 0.001µ
R11 N032 N025 22K
C3 N025 0 100n
R12 0 N030 10K
D3 N024 P002 D
R13 N033 -5 100K
XU4 N044 N039 +5 -5 N042 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N039 D
D5 P003 N044 D
R14 N042 N044 1Meg
R15 0 N044 700K
R16 P003 0 100K
R17 N042 N039 22K
C4 N039 0 100n
C5 P003 N019 0.001µ
XU5 N043 N041 +10 -10 N037 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R18 N037 N041 300K
R19 N043 0 10K
R20 N043 N042 100K
R21 N043 N014 100K
R22 0 N041 10K
D6 N037 P004 D
R23 N043 -5 100K
R24 Sine N023 30K
R25 N023 P002 15K
R26 N036 N023 15K
R27 N014 N035 1Meg
R28 N029 0 1Meg
XU6 N045 N040 +5 -5 N019 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C6 0 N045 0.1µ
R29 N019 N040 10K
R30 N019 N045 1Meg
R31 N040 0 1Meg
XU7 0 N023 +10 -10 Sine level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R32 N036 N038 10K
XU8 0 N038 +10 -10 N036 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R33 N038 P004 10K
C7 Sine N023 0.047µ
XU9 N015 N011 +10 -10 N006 level.3b Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N006 N011 150K
R35 N015 0 10K
R36 N015 N014 100K
R37 0 N011 10K
R38 N015 N010 100K
R39 0 N010 100K
R40 N010 -5 50K
D7 N006 Sombrero D
R41 N012 N004 120K
XU10 N013 N004 +10 -10 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R42 N004 Sombrero 100K
R43 N013 Sombrero 100K
Q1 N013 inv 0 0 NPN
R44 Hebbian N005 35K
R45 N005 N012 15K
R46 0 N005 15K
XU11 0 N005 +10 -10 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N005 0.047µ
R47 inv Sine 1K
V1 +5 0 5
V2 0 -5 5
V3 Tpost 0 PULSE(0 3 0 1n 1n 3m 10m)
V4 Tpre 0 PULSE(0 3 5.5m 1n 1n 3m 10.1m)
R48 N015 N019 100K
V5 +10 0 10
V6 0 -10 10
C9 N016 N007 2.2µ
R49 +5 N016 10K
R50 +5 N008 10K
Q2 N008 N016 0 0 2N2222
C10 N009 N008 0.1µ
D8 0 N009 RF05VA1S
XU12 Hebbian N007 +10 1 N007 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU13 N009 N003 +5 -5 N003 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C11 N031 N026 2.2µ
R51 -5 N031 10K
R52 -5 N027 10K
C12 N028 N027 0.1µ
D9 N028 0 RF05VA1S
XU14 N028 N022 +5 -5 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
Q3 0 N031 N027 0 BC858B
XU15 Hebbian N026 -.15 -10 N026 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU16 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R53 N002 N001 13K
R54 N001 N003 100K
R55 N001 0.15 13K
V7 0.15 0 0.075
XU17 0 N020 +5 -5 N021 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R56 N021 N020 13K
R57 N020 N022 180K
R58 N020 0.15 13K
V8 -.15 0 -1
V9 1 0 1
XU18 0 N017 +5 -5 N018 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R59 N017 N002 100K
R60 N017 N021 100K
R61 N018 N017 100K
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
