* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\dopamine-summation\In-Ex-Pulse.asc
XU3 N024 N022 +5 -5 N019 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N019 N022 300K
R12 N024 0 10K
R10 N024 N023 100K
XU1 N026 N021 +5 -5 N014 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N026 1µ
R1 N026 Tpre 10K
R15 N036 Tpost 10K
R3 N014 N021 10K
R11 N024 N016 100K
XU2 N025 N020 +5 -5 N023 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N020 D
D2 P001 N025 D
R7 N023 N025 1Meg
R8 0 N025 600K
R5 P001 0 100K
C2 P001 N014 0.02µ
R6 N023 N020 20K
C3 N020 0 600n
R13 0 N022 10K
D3 N019 P002 D
R9 N024 -5 100K
XU5 N035 N030 +5 -5 N033 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N030 D
D5 P003 N035 D
R21 N033 N035 1Meg
R22 0 N035 600K
R19 P003 0 100K
R20 N033 N030 20K
C6 N030 0 600n
C5 P003 N016 0.02µ
XU6 N034 N032 +5 -5 N028 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N028 N032 300K
R26 N034 0 10K
R24 N034 N033 100K
R25 N034 N014 100K
R27 0 N032 10K
D6 N028 P004 D
R23 N034 -5 100K
R33 Inhibitor N018 30K
R31 N018 P002 15K
R32 N027 N018 15K
R4 N014 N026 1Meg
R2 N021 0 1Meg
XU4 N036 N031 +5 -5 N016 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N036 1µ
R17 N016 N031 10K
R18 N016 N036 1Meg
R16 N031 0 1Meg
XU8 0 N018 +5 -5 Inhibitor level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 N027 N029 10K
XU7 0 N029 +5 -5 N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R29 N029 P004 10K
C7 Inhibitor N018 0.5µ
XU9 N015 N011 +5 -5 N007 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R45 N007 N011 150K
R43 N015 0 10K
R41 N015 N014 100K
R44 0 N011 10K
R40 N015 N010 100K
R39 0 N010 100K
R38 N010 -5 50K
D7 N007 Sombrero D
R48 N012 N005 120K
XU10 N013 N005 +5 -5 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R46 N005 Sombrero 100K
R47 N013 Sombrero 100K
Q2 N013 N017 0 0 NPN
R51 Hebbian N006 35K
R49 N006 N012 15K
R50 0 N006 15K
XU11 0 N006 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N006 0.5µ
R71 N017 Inhibitor 1K
V1 +5 0 5
V2 0 -5 5
V3 Tpost 0 PULSE(0 3 50m 0 0 20m 118m)
V4 Tpre 0 PULSE(0 3 10m 0 0 20m 120m)
R42 N015 N016 100K
XU12 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU13 0 N008 +5 -5 N009 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N002 N001 R=(V(mod)*100K+1)
R35 N001 Sombrero R=(350K-V(mod)*100K+1)
R36 N008 Hebbian R=(V(mod)*100K+1)
R37 N009 N008 R=(350K-V(mod)*100K+1)
XU14 0 N003 +5 -5 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R52 N004 N003 100K
R53 N003 N002 100K
R54 N003 N009 100K
V5 mod 0 PWL(0 0 40 3.5)
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 40 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
