* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\dopamine-summation\dopamine-sum-schV2.asc
XU3 N034 N032 +5 -5 N028 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N028 N032 300K
R12 N034 0 10K
R10 N034 N033 100K
XU1 N036 N031 +5 -5 N018 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N036 0.1µ
R1 N036 Tpre 10K
R15 N047 Tpost 10K
R3 N018 N031 10K
R11 N034 N020 100K
XU2 N035 N030 +5 -5 N033 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N030 D
D2 P001 N035 D
R7 N033 N035 1Meg
R8 0 N035 700K
R5 P001 0 100K
C2 P001 N018 0.001µ
R6 N033 N030 22K
C3 N030 0 100n
R13 0 N032 10K
D3 N028 P002 D
R9 N034 -5 100K
XU5 N046 N041 +5 -5 N044 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N041 D
D5 P003 N046 D
R21 N044 N046 1Meg
R22 0 N046 700K
R19 P003 0 100K
R20 N044 N041 22K
C6 N041 0 100n
C5 P003 N020 0.001µ
XU6 N045 N043 +5 -5 N039 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N039 N043 300K
R26 N045 0 10K
R24 N045 N044 100K
R25 N045 N018 100K
R27 0 N043 10K
D6 N039 P004 D
R23 N045 -5 100K
R33 Sine N027 30K
R31 N027 P002 15K
R32 N038 N027 15K
R4 N018 N036 1Meg
R2 N031 0 1Meg
XU4 N047 N042 +5 -5 N020 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N047 0.1µ
R17 N020 N042 10K
R18 N020 N047 1Meg
R16 N042 0 1Meg
XU8 0 N027 +5 -5 Sine level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 N038 N040 10K
XU7 0 N040 +5 -5 N038 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R29 N040 P004 10K
C7 Sine N027 0.047µ
XU9 N019 N015 +5 -5 N007 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R45 N007 N015 150K
R43 N019 0 10K
R41 N019 N018 100K
R44 0 N015 10K
R40 N019 N013 100K
R39 0 N013 100K
R38 N013 -5 50K
D7 N007 Sombrero D
R48 N016 N004 120K
XU10 N017 N004 +5 -5 N016 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R46 N004 Sombrero 100K
R47 N017 Sombrero 100K
Q2 N017 inv 0 0 NPN
R51 Hebbian N005 35K
R49 N005 N016 15K
R50 0 N005 15K
XU11 0 N005 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N005 0.047µ
R71 inv Sine 1K
V1 +5 0 5
V2 0 -5 5
V3 Tpost 0 PULSE(0 3 0 1n 1n 3m 10m)
V4 Tpre 0 PULSE(0 3 5.1m 1n 1n 3m 10.1m)
R42 N019 N020 100K
XU12 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU13 0 N023 +5 -5 N024 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N002 N001 R=((1-V(mod))*100K+1m)
R35 N001 Sombrero 100K
R36 N023 N022 100K
R37 N024 N023 R=(V(mod)*100K+1m)
XU14 0 N008 +5 -5 out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R52 out N008 100K
R53 N008 N002 200K
R54 N008 N024 100K
V5 mod 0 PWL file=test1.txt
XU15 0 N021 +5 -5 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R56 N022 N021 100K
R57 N021 Hebbian 100K
C10 N014 N006 2.2µ
R55 +5 N014 10K
R58 +5 N009 10K
Q1 N009 N014 0 0 2N2222
C11 N010 N009 0.1µ
D8 0 N010 RF05VA1S
XU16 Sombrero N006 +5 -5 N006 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R63 N011 N003 120K
XU18 N012 N003 +5 -5 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R64 N003 pwm_out 100K
R65 N012 pwm_out 100K
Q3 N012 inv_out 0 0 NPN
XU19 N010 pwm_out +5 -5 pwm_out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
A2 N025 pwm_out 0 0 0 0 N026 0 AND
A4 inv N029 0 0 0 0 N025 0 SCHMITT
R66 0 N029 5K
R67 N029 +5 100K
A3 N026 N037 0 0 0 0 inv_out 0 SRFLOP
A5 N025 pwm_out 0 0 0 N037 0 0 OR
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
