* C:\Users\yurra\Documents\memristive-brain\test-circuits\LTSPICE\dopamine-summation\dopamine-sum-schV2.asc
XU3 N036 N034 +5 -5 N027 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R14 N027 N034 300K
R12 N036 0 10K
R10 N036 N035 100K
XU1 N038 N029 +5 -5 N018 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C1 0 N038 0.1µ
R1 N038 Tpre 10K
R15 N048 Tpost 10K
R3 N018 N029 10K
R11 N036 N020 100K
XU2 N037 N028 +5 -5 N035 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D1 0 N028 D
D2 P001 N037 D
R7 N035 N037 1Meg
R8 0 N037 700K
R5 P001 0 100K
C2 P001 N018 0.001µ
R6 N035 N028 22K
C3 N028 0 100n
R13 0 N034 10K
D3 N027 P002 D
R9 N036 -5 100K
XU5 N047 N042 +5 -5 N045 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D4 0 N042 D
D5 P003 N047 D
R21 N045 N047 1Meg
R22 0 N047 700K
R19 P003 0 100K
R20 N045 N042 22K
C6 N042 0 100n
C5 P003 N020 0.001µ
XU6 N046 N044 +5 -5 N040 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R28 N040 N044 300K
R26 N046 0 10K
R24 N046 N045 100K
R25 N046 N018 100K
R27 0 N044 10K
D6 N040 P004 D
R23 N046 -5 100K
R33 Sine N026 30K
R31 N026 P002 15K
R32 N039 N026 15K
R4 N018 N038 1Meg
R2 N029 0 1Meg
XU4 N048 N043 +5 -5 N020 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C4 0 N048 0.1µ
R17 N020 N043 10K
R18 N020 N048 1Meg
R16 N043 0 1Meg
XU8 0 N026 +5 -5 Sine level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R30 N039 N041 10K
XU7 0 N041 +5 -5 N039 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R29 N041 P004 10K
C7 Sine N026 0.047µ
XU9 N019 N015 +5 -5 N009 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R45 N009 N015 150K
R43 N019 0 10K
R41 N019 N018 100K
R44 0 N015 10K
R40 N019 N014 100K
R39 0 N014 100K
R38 N014 -5 50K
D7 N009 Sombrero D
R48 N016 N005 120K
XU10 N017 N005 +5 -5 N016 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R46 N005 Sombrero 100K
R47 N017 Sombrero 100K
Q2 N017 inv 0 0 NPN
R51 Hebbian N006 35K
R49 N006 N016 15K
R50 0 N006 15K
XU11 0 N006 +5 -5 Hebbian level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
C8 Hebbian N006 0.047µ
R71 inv Sine 1K
V1 +5 0 5
V2 0 -5 5
V3 Tpost 0 PULSE(0 3 0 1n 1n 3m 20m)
V4 Tpre 0 PULSE(0 3 0 1n 1n 3m 20.1m)
R42 N019 N020 100K
XU12 0 N001 +5 -5 N002 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU13 0 N023 +5 -5 N024 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R34 N002 N001 R=((1-V(mod))*100K+1m)
R35 N001 Sombrero 100K
R36 N023 N022 100K
R37 N024 N023 R=(V(mod)*100K+1m)
XU14 0 N010 +5 -5 out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R52 out N010 100K
R53 N010 N002 200K
R54 N010 N024 100K
V5 mod 0 PWL file=test1.txt
XU15 0 N021 +5 -5 N022 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R56 N022 N021 100K
R57 N021 Hebbian 100K
C10 N013 N004 2.2µ
R55 +5 N013 10K
R58 +5 N007 10K
Q1 N007 N013 0 0 2N2222
C11 N008 N007 0.1µ
D8 0 N008 RF05VA1S
XU16 Sombrero N004 +5 -5 N004 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU17 N033 N025 +5 -5 N030 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
D9 0 N025 D
D10 N032 N033 D
R59 N030 N033 470k
R60 0 N033 100k
R61 N032 0 100K
R62 N030 N025 47K
C12 N025 0 0.47µ
C13 N032 N031 0.01m
D11 inv N031 D
R63 N011 N003 120K
XU18 N012 N003 +5 -5 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
R64 N003 pwm_out 100K
R65 N012 pwm_out 100K
Q3 N012 inv_out 0 0 NPN
XU19 NC_01 pwm_out +5 -5 pwm_out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
XU20 N030 inv_out +5 0 inv_out level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.model D D
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\yurra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 2 0 1000u
.lib UniversalOpamps2.sub
.backanno
.end
